* NGSPICE file created from banba_layout.ext - technology: gf180mcuB

.subckt banba_layout VDD VREF VSS
X0 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X1 XAMP_NMIR XAMP_NMIR VSS VSS nfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=2u
X2 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X3 CTRL XSTART_KICK VSS VSS nfet_03v3 ad=0.4p pd=2.6u as=0.4p ps=2.6u w=0.5u l=4u
X4 VB CTRL VDD VDD pfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=4u
X5 XSTART_RDET_series_10 XSTART_RDET_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X6 XSTART_RPULL_series_18 XSTART_RPULL_series_19 VSS ppolyf_u_1k r_width=1u r_length=100u
X7 XSTART_RDET_series_4 XSTART_RDET_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X8 XAMP_RBIAS_series_2 XAMP_RBIAS_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X9 XSTART_RPULL_series_12 XSTART_RPULL_series_13 VSS ppolyf_u_1k r_width=1u r_length=100u
X10 XAMP_RBIAS_series_8 XAMP_RBIAS_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X11 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X12 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X13 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X14 VREF VSS VSS ppolyf_u_1k r_width=1u r_length=50.15u
X15 XSTART_RPULL_series_6 XSTART_RPULL_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X16 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X17 XAMP_TAIL XAMP_PBIAS VDD VDD pfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=4u
X18 XSTART_RDET_series_12 XSTART_RDET_series_11 VSS ppolyf_u_1k r_width=1u r_length=100u
X19 VA CTRL VDD VDD pfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=4u
X20 XSTART_RPULL_series_14 XSTART_RPULL_series_13 VSS ppolyf_u_1k r_width=1u r_length=100u
X21 VDD CTRL cap_mim_2f0_m3m4_noshield c_width=96.67u c_length=96.67u
X22 XSTART_RPULL_series_8 XSTART_RPULL_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X23 XSTART_RDET_series_6 XSTART_RDET_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X24 XAMP_RBIAS_series_4 XAMP_RBIAS_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X25 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X26 XSTART_DET CTRL VDD VDD pfet_03v3 ad=0.8p pd=3.6u as=0.8p ps=3.6u w=1u l=8u
X27 VDD XSTART_RPULL_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X28 VSS VSS VA pnp_05p00x05p00
**devattr s=1000000,4000
X29 VREF CTRL VDD VDD pfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=4u
X30 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X31 XSTART_RDET_series_14 XSTART_RDET_series_13 VSS ppolyf_u_1k r_width=1u r_length=100u
X32 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X33 XSTART_RDET_series_8 XSTART_RDET_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X34 XSTART_RPULL_series_16 XSTART_RPULL_series_15 VSS ppolyf_u_1k r_width=1u r_length=100u
X35 XSTART_DET XSTART_RDET_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X36 XSTART_RPULL_series_2 XSTART_RPULL_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X37 XSTART_RPULL_series_10 XSTART_RPULL_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X38 XAMP_RBIAS_series_6 XAMP_RBIAS_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X39 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X40 XSTART_RDET_series_8 XSTART_RDET_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X41 XSTART_RPULL_series_18 XSTART_RPULL_series_17 VSS ppolyf_u_1k r_width=1u r_length=100u
X42 XSTART_RDET_series_2 XSTART_RDET_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X43 VSS XSTART_RDET_series_15 VSS ppolyf_u_1k r_width=1u r_length=100u
X44 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X45 VA VSS VSS ppolyf_u_1k r_width=1u r_length=100u
X46 XAMP_NMIR VA XAMP_TAIL VDD pfet_03v3 ad=19.2p pd=49.6u as=19.2p ps=49.6u w=24u l=2u
X47 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X48 XAMP_RBIAS_series_8 XAMP_RBIAS_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X49 XSTART_RPULL_series_12 XSTART_RPULL_series_11 VSS ppolyf_u_1k r_width=1u r_length=100u
X50 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X51 XAMP_PBIAS XAMP_RBIAS_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X52 XSTART_RPULL_series_4 XSTART_RPULL_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X53 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X54 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X55 XAMP_GAIN XAMP_NMIR VSS VSS nfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=2u
X56 VDD CTRL cap_mim_2f0_m3m4_noshield c_width=96.67u c_length=96.67u
X57 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X58 XSTART_RDET_series_10 XSTART_RDET_series_11 VSS ppolyf_u_1k r_width=1u r_length=100u
X59 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X60 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X61 XSTART_KICK XSTART_RPULL_series_19 VSS ppolyf_u_1k r_width=1u r_length=100u
X62 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X63 XSTART_RDET_series_4 XSTART_RDET_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X64 XAMP_RBIAS_series_2 XAMP_RBIAS_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X65 XSTART_RPULL_series_6 XSTART_RPULL_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X66 VSS XAMP_RBIAS_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X67 CTRL XAMP_PBIAS VDD VDD pfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=8u
X68 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X69 XSTART_KICK XSTART_DET VSS VSS nfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=1u
X70 XSTART_RDET_series_12 XSTART_RDET_series_13 VSS ppolyf_u_1k r_width=1u r_length=100u
X71 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X72 XAMP_GAIN VB XAMP_TAIL VDD pfet_03v3 ad=19.2p pd=49.6u as=19.2p ps=49.6u w=24u l=2u
X73 XSTART_RDET_series_6 XSTART_RDET_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X74 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X75 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X76 XSTART_RPULL_series_14 XSTART_RPULL_series_15 VSS ppolyf_u_1k r_width=1u r_length=100u
X77 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X78 XSTART_RPULL_series_2 XSTART_RPULL_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X79 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X80 XAMP_RBIAS_series_4 XAMP_RBIAS_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X81 XSTART_RPULL_series_8 XSTART_RPULL_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X82 VB VSS VSS ppolyf_u_1k r_width=1u r_length=100u
X83 XAMP_PBIAS XAMP_PBIAS VDD VDD pfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=4u
X84 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X85 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X86 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X87 VDD CTRL cap_mim_2f0_m3m4_noshield c_width=96.67u c_length=96.67u
X88 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X89 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X90 XAMP_GAIN CTRL cap_mim_2f0_m3m4_noshield c_width=44.72u c_length=44.72u
X91 VB VE2 VSS ppolyf_u_1k r_width=1u r_length=10.85u
X92 XSTART_RDET_series_14 XSTART_RDET_series_15 VSS ppolyf_u_1k r_width=1u r_length=100u
X93 XSTART_RPULL_series_16 XSTART_RPULL_series_17 VSS ppolyf_u_1k r_width=1u r_length=100u
X94 XSTART_RDET_series_2 XSTART_RDET_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X95 CTRL XAMP_GAIN VSS VSS nfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=2u
X96 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X97 XAMP_RBIAS_series_6 XAMP_RBIAS_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X98 XSTART_RPULL_series_4 XSTART_RPULL_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X99 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X100 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X101 VDD CTRL cap_mim_2f0_m3m4_noshield c_width=96.67u c_length=96.67u
X102 XSTART_RPULL_series_10 XSTART_RPULL_series_11 VSS ppolyf_u_1k r_width=1u r_length=100u
C0 XAMP_TAIL CTRL 0.35791f
C1 XSTART_RDET_series_11 XSTART_RDET_series_13 0.00522f
C2 XAMP_PBIAS XSTART_KICK 0.17168f
C3 XSTART_RDET_series_7 XSTART_RDET_series_9 0.00522f
C4 XAMP_RBIAS_series_9 XAMP_RBIAS_series_7 0.00522f
C5 XSTART_RDET_series_4 XSTART_RDET_series_2 0.00522f
C6 CTRL XAMP_RBIAS_series_3 0.00684f
C7 XSTART_RPULL_series_11 XSTART_RPULL_series_9 0.00522f
C8 VA XAMP_PBIAS 0.56851f
C9 XSTART_RDET_series_5 XSTART_RDET_series_3 0.00522f
C10 VDD XSTART_RPULL_series_2 0.00814f
C11 VB VE2 0.1132f
C12 XAMP_TAIL XAMP_PBIAS 2.8715f
C13 XAMP_GAIN VDD 0.91007f
C14 VDD XSTART_DET 0.31394f
C15 XSTART_RPULL_series_4 XSTART_RPULL_series_6 0.00522f
C16 VREF XAMP_GAIN 0.48555f
C17 VREF XSTART_DET 0.33733f
C18 XSTART_RDET_series_8 XSTART_RDET_series_6 0.00522f
C19 VDD XSTART_KICK 0.207f
C20 CTRL XAMP_RBIAS_series_9 0.00684f
C21 XAMP_GAIN XAMP_NMIR 2.66296f
C22 VREF XSTART_KICK 0.36323f
C23 XSTART_RPULL_series_12 XSTART_KICK 0.00565f
C24 CTRL XAMP_PBIAS 0.87264f
C25 XSTART_RDET_series_12 XSTART_RDET_series_14 0.00522f
C26 VDD XSTART_RDET_series_2 0
C27 XSTART_RPULL_series_5 XSTART_RPULL_series_7 0.00522f
C28 XSTART_RPULL_series_5 XSTART_RPULL_series_3 0.00522f
C29 VDD XSTART_RDET_series_8 0
C30 VDD VA 3.85923f
C31 VREF VA 0.24063f
C32 VA XAMP_NMIR 1.59672f
C33 XSTART_RPULL_series_12 XSTART_RPULL_series_10 0.00522f
C34 VDD XAMP_TAIL 3.50353f
C35 VREF XAMP_TAIL 0.37982f
C36 XAMP_GAIN VB 1.31535f
C37 XAMP_GAIN VE2 1.02418f
C38 XSTART_DET VE2 0.34437f
C39 XAMP_TAIL XAMP_NMIR 0.91543f
C40 XSTART_KICK VE2 0.37028f
C41 VDD CTRL 41.7781f
C42 XSTART_RDET_series_8 XSTART_RDET_series_10 0.00522f
C43 VREF CTRL 0.51775f
C44 CTRL XAMP_NMIR 0.52226f
C45 XSTART_RDET_series_4 XSTART_RDET_series_6 0.00522f
C46 XSTART_RDET_series_15 XSTART_RDET_series_13 0.00522f
C47 VDD XSTART_RDET_series_12 0
C48 VDD XSTART_RDET_series_14 0
C49 VA VB 1.3257f
C50 XSTART_RPULL_series_15 XSTART_RPULL_series_17 0.00522f
C51 VA VE2 1.57474f
C52 XSTART_RPULL_series_19 XSTART_RPULL_series_17 0.00522f
C53 XSTART_RPULL_series_8 XSTART_KICK 0.00565f
C54 XAMP_RBIAS_series_8 XAMP_RBIAS_series_6 0.00522f
C55 XAMP_RBIAS_series_2 XAMP_PBIAS 0.00814f
C56 XAMP_TAIL VB 1.44849f
C57 XSTART_RDET_series_4 VDD 0
C58 XAMP_TAIL VE2 0.37982f
C59 XSTART_RPULL_series_14 XSTART_RPULL_series_12 0.00522f
C60 VDD XAMP_PBIAS 6.35784f
C61 XAMP_RBIAS_series_1 XSTART_KICK 0.003f
C62 VREF XAMP_PBIAS 0.5748f
C63 XSTART_RDET_series_5 XSTART_RDET_series_7 0.00522f
C64 XAMP_NMIR XAMP_PBIAS 1.34772f
C65 XSTART_RPULL_series_2 XSTART_KICK 0.00565f
C66 XAMP_GAIN XSTART_DET 0.36529f
C67 CTRL VB 0.95464f
C68 CTRL VE2 0.7236f
C69 XSTART_RPULL_series_8 XSTART_RPULL_series_10 0.00522f
C70 XSTART_RDET_series_11 XSTART_RDET_series_9 0.00522f
C71 XAMP_GAIN XSTART_KICK 0.38352f
C72 XSTART_DET XSTART_KICK 4.68133f
C73 XAMP_RBIAS_series_4 XAMP_RBIAS_series_6 0.00522f
C74 XSTART_RPULL_series_16 XSTART_KICK 0.00565f
C75 XSTART_RDET_series_12 XSTART_RDET_series_10 0.00522f
C76 XSTART_KICK XAMP_RBIAS_series_5 0.003f
C77 VDD XSTART_RDET_series_6 0
C78 XSTART_DET XSTART_RDET_series_2 0.00814f
C79 XAMP_RBIAS_series_5 XAMP_RBIAS_series_7 0.00522f
C80 XSTART_KICK XAMP_RBIAS_series_7 0.003f
C81 XSTART_RPULL_series_18 XSTART_RPULL_series_16 0.00522f
C82 XAMP_GAIN VA 0.51094f
C83 XSTART_RPULL_series_11 XSTART_RPULL_series_13 0.00522f
C84 XSTART_DET VA 0.34755f
C85 XSTART_RPULL_series_18 XSTART_KICK 0.01855f
C86 XAMP_RBIAS_series_2 XAMP_RBIAS_series_4 0.00522f
C87 XAMP_PBIAS VB 3.60943f
C88 VREF VDD 0.75003f
C89 VA XSTART_KICK 0.37346f
C90 XAMP_RBIAS_series_1 XAMP_RBIAS_series_3 0.00522f
C91 XAMP_PBIAS VE2 0.5748f
C92 XSTART_RPULL_series_10 XSTART_KICK 0.00565f
C93 XSTART_RDET_series_3 XSTART_RDET_series_1 0.00522f
C94 VDD XAMP_NMIR 1.10915f
C95 XAMP_GAIN XAMP_TAIL 0.96692f
C96 XSTART_DET XAMP_TAIL 1.7243f
C97 CTRL XAMP_RBIAS_series_1 0.00684f
C98 VREF XAMP_NMIR 0.46691f
C99 XAMP_TAIL XSTART_KICK 0.13254f
C100 XSTART_RPULL_series_4 XSTART_RPULL_series_2 0.00522f
C101 XSTART_RPULL_series_8 XSTART_RPULL_series_6 0.00522f
C102 XAMP_RBIAS_series_3 XAMP_RBIAS_series_5 0.00522f
C103 XAMP_RBIAS_series_3 XSTART_KICK 0.003f
C104 XAMP_GAIN CTRL 4.26002f
C105 XSTART_DET CTRL 0.49804f
C106 CTRL XAMP_RBIAS_series_5 0.00684f
C107 XSTART_RPULL_series_9 XSTART_RPULL_series_7 0.00522f
C108 CTRL XSTART_KICK 0.57071f
C109 XSTART_RPULL_series_4 XSTART_KICK 0.00565f
C110 XAMP_TAIL VA 1.48956f
C111 VDD XSTART_RDET_series_10 0
C112 XSTART_RPULL_series_15 XSTART_RPULL_series_13 0.00522f
C113 CTRL XAMP_RBIAS_series_7 0.00684f
C114 VDD VB 3.08737f
C115 VDD VE2 2.71432f
C116 XSTART_RPULL_series_1 XSTART_RPULL_series_3 0.00522f
C117 VREF VB 0.23884f
C118 XSTART_RPULL_series_6 XSTART_KICK 0.00565f
C119 VREF VE2 4.25544f
C120 XSTART_RPULL_series_14 XSTART_RPULL_series_16 0.00522f
C121 XAMP_NMIR VB 0.12274f
C122 VA CTRL 3.13491f
C123 XSTART_RPULL_series_14 XSTART_KICK 0.00565f
C124 XAMP_NMIR VE2 0.45655f
C125 XAMP_RBIAS_series_9 XSTART_KICK 0.003f
C126 XAMP_GAIN XAMP_PBIAS 0.89368f
C127 XSTART_DET XAMP_PBIAS 1.96692f
C128 CTRL VSS 0.47601p
C129 XAMP_TAIL VSS 90.65318f
C130 XSTART_RDET_series_1 VSS 0.79894f
C131 XSTART_RDET_series_2 VSS 0.76813f
C132 XSTART_RDET_series_3 VSS 0.78892f
C133 XSTART_RDET_series_4 VSS 0.76821f
C134 XSTART_RDET_series_5 VSS 0.78892f
C135 VE2 VSS 1.4567p
C136 XSTART_RDET_series_6 VSS 0.76821f
C137 XSTART_RDET_series_7 VSS 0.78892f
C138 XSTART_RDET_series_8 VSS 0.76821f
C139 XSTART_RDET_series_9 VSS 0.78892f
C140 XSTART_RDET_series_10 VSS 0.76821f
C141 XSTART_RDET_series_11 VSS 0.78892f
C142 XAMP_RBIAS_series_1 VSS 0.79894f
C143 XSTART_RDET_series_12 VSS 0.76821f
C144 XAMP_RBIAS_series_2 VSS 0.76813f
C145 XSTART_RDET_series_13 VSS 0.78892f
C146 XAMP_RBIAS_series_3 VSS 0.78892f
C147 XSTART_RDET_series_14 VSS 0.78103f
C148 XAMP_RBIAS_series_4 VSS 0.76821f
C149 XSTART_RDET_series_15 VSS 0.79894f
C150 XAMP_RBIAS_series_5 VSS 0.78892f
C151 XAMP_RBIAS_series_6 VSS 0.76821f
C152 XAMP_RBIAS_series_7 VSS 0.78892f
C153 XAMP_RBIAS_series_8 VSS 0.78103f
C154 XAMP_RBIAS_series_9 VSS 0.79894f
C155 XSTART_RPULL_series_1 VSS 0.79894f
C156 XSTART_RPULL_series_2 VSS 0.76248f
C157 XSTART_RPULL_series_3 VSS 0.78892f
C158 XSTART_RPULL_series_4 VSS 0.76256f
C159 XSTART_RPULL_series_5 VSS 0.78892f
C160 XSTART_RPULL_series_6 VSS 0.76256f
C161 XSTART_RPULL_series_7 VSS 0.78892f
C162 XSTART_RPULL_series_8 VSS 0.76256f
C163 XSTART_RPULL_series_9 VSS 0.78892f
C164 XSTART_RPULL_series_10 VSS 0.76256f
C165 XSTART_RPULL_series_11 VSS 0.78892f
C166 XSTART_RPULL_series_12 VSS 0.76256f
C167 XSTART_RPULL_series_13 VSS 0.78892f
C168 XSTART_RPULL_series_14 VSS 0.76256f
C169 XSTART_RPULL_series_15 VSS 0.78892f
C170 XSTART_RPULL_series_16 VSS 0.76256f
C171 XSTART_RPULL_series_17 VSS 0.78892f
C172 XSTART_RPULL_series_18 VSS 0.76248f
C173 XSTART_RPULL_series_19 VSS 0.79894f
C174 XSTART_KICK VSS 0.18785p
.ends

